US06320050B1
A solution of freshly prepared lithium diisopropylamide (23.0 mL of 0.31 M stock solution, 7.13 mmol) cooled to −78° C. was treated with (4-chloro-phenyl)-acetic acid ethyl ester (1.28 g, 6.48 mmol) in tetrahydrofuran/hexamethylphosphoramide (16.1 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (1.50 mg, 7.13 mmol) in hexamethylphosphoramide (1 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was warmed to 25° C. and stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (20 mL). This mixture was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid ethyl ester (1.65 g, 90.9%) as a yellow oil: EI-HRMS m/e calcd for C16H21Cl2O2 (N) 280.1230, found 280.1227.

reactant | lithium diisopropylamide | 7.13 mmol, 0.31 M, 23.0 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | (4-chloro-phenyl)-acetic acid ethyl ester | 6.48 mmol, 1.28 g | C(C)OC(CC1=CC=C(C=C1)Cl)=O | C10H11ClO2
reactant | iodomethylcyclopentane | 7.13 mmol, 1.50 mg | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran hexamethylphosphoramide | 16.1 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
solvent | hexamethylphosphoramide | 1 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-(4-chloro-phenyl)-3-cyclopentyl-propionic acid ethyl ester | 1.65 g, 90.9% | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O | C16H21ClO2
